US04232035
2-[[O-[N-Methyl-N-(-butylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one was prepared according to the procedure described in Example X by reacting 3.48 g (0.02 m) of 3,5,5-trimethyl-2-oximino thiazolidin-4-one with 3.96 g (0.02 m) of N-methyl-N-(-butylthiosulfenylcarbamoyl fluoride and 1.3 g (0.02 m) of pulverized potassium hydroxide and 0.02 g of crown ether. The residual oil was taken in pentane and chilled to yield 5.0 g of a white solid, m.p. 36°-37° C.

reactant | 3,5,5-trimethyl-2-oximino thiazolidin-4-one | 3.48 g | CN1C(SC(C1=O)(C)C)=NO | C6H10N2O2S
reactant | butylthiosulfenylcarbamoyl fluoride | C(CCC)SSNC(=O)F | C5H10FNOS2
reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | pentane | CCCCC | C5H12
product | 2-[[O-[N-Methyl-N-(-butylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one | CN(C(=O)ON=C1SC(C(N1C)=O)(C)C)SSCCCC | C12H21N3O3S3
